US06369110B1
A solution of ethyl 9-methoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (4.00 g, 16.2 mmol) in tetrahydrofuran (60 ml) was cooled to −10° C., and methylmagnesium iodide (a 2M diethyl ether solution 16.2 ml, 32.5 mmol) was added dropwise thereto. The reaction mixture was stirred at −5° C. for 2 hours, poured into a cold aqueous ammonium chloride solution and then extracted twice with ethyl acetate. The extract solution was washed with an aqueous sodium hydrogen-carbonate solution and a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/98) to obtain 0.81 g of ethyl 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate.

reactant | ethyl 9-methoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 16.2 mmol, 4.00 g | COC1=C(CCCC2=C1C=CC=C2)C(=O)OCC | C15H18O3
reactant | methylmagnesium iodide | C[Mg]I
reactant | diethyl ether | 32.5 mmol, 2M, 16.2 ml | C(C)OCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl 9-methyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 0.81 g | CC1=C(CCCC2=C1C=CC=C2)C(=O)OCC | C15H18O2
